US08957062B2
Step B: cyclopropyl{2,6-difluoro-4-[(4-methoxybenzyl)oxy]phenyl}methanone
To a solution of cyclopropyl{2,6-difluoro-4-[(4-methoxybenzyl)oxy]phenyl}methanol (860 mg, 2.73 mmol) in DCM (137 mL) cooled to 0° C. via ice water bath was added 4-methoxylmorpholine N-oxide (481 mg, 4.10 mmol) followed by TPAP (96 mg, 0.27 mmol) and the resulting mixture was stirred for 20 minutes. The mixture was directly loaded onto a silica gel column (80 g, ISCO, eluting with a gradient of 10-30% ethyl acetate hexane) and purified to afford the title compound (728 mg, 85%). LC/MS 319 (M+H)+.

reactant | cyclopropyl{2,6-difluoro-4-[(4-methoxybenzyl)oxy]phenyl}methanol | 2.73 mmol, 860 mg | C1(CC1)C(O)C1=C(C=C(C=C1F)OCC1=CC=C(C=C1)OC)F | C18H18F2O3
reactant | 4-methoxylmorpholine N-oxide | 4.10 mmol, 481 mg | O(C)[N+]1(CCOCC1)[O-] | C5H11NO3
solvent | DCM | 137 mL | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.27 mmol, 96 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | cyclopropyl{2,6-difluoro-4-[(4-methoxybenzyl)oxy]phenyl}methanone | 728 mg, 85% | C1(CC1)C(=O)C1=C(C=C(C=C1F)OCC1=CC=C(C=C1)OC)F | C18H16F2O3
